US05821387
A mixture of palladium on carbon (10%, 5.0 g) and 6-methyl-7,8,9,10-tetrahydro-chrysene (64.0 g, 0.24 mol) in triglyme (290 mL) was heated at 210° C. under a slow nitrogen stream. The progress of the reaction was monitored by NMR analysis that showed the reaction was 72% complete after 4 hours. The heating was discontinued after 18 hours when essentially all of the starting material had been consumed. The mixture was cooled to 100° C. and filtered to remove the catalyst. The solution was then cooled further to 0° C., and filtered to give 42.9 g (68% yield) of 6-methylchrysene. The filtrate was diluted with water (300 mL) and filtered to give an additional 15.5 g (93% combined yield) of 6-methylchrysene. 1H NMR (CDCl3) 2.86 (s, 3 H), 7.6 (m, 4 H), 7.9 (m, 2 H), 8.1 (m, 1 H), 8.55 (s, 1 H), 8.65 (m, 1 H), 8.8 (m, 2 H).

reactant | 6-methyl-7,8,9,10-tetrahydro-chrysene | 0.24 mol, 64.0 g | CC=1C=C2C=3C=CC=CC3C=CC2=C2CCCCC12 | C19H18
catalyst | palladium on carbon | 5.0 g | [Pd] | Pd
solvent | triglyme | 290 mL | COCCOCCOCCOC | C8H18O4
product | 6-methylchrysene | 42.9 g, 68% yield | CC=1C=C2C=3C=CC=CC3C=CC2=C2C=CC=CC12 | C19H14
